US07932272B2
To a solution of 6-aminonicotinic acid (130 mg, 0.941 mmol) and 4-benzyloxy-benzylamine (201 mg, 0.941 mmol) described in Preparation Example 1 in N,N-dimethylformamide (5 mL), was added benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (624 mg, 1.41 mmol) and triethylamine (394 μl, 2.82 mmol), and the solution was stirred for 40 minutes at 80° C. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was washed twice with water. The solvent was evaporated in vacuo, ethyl acetate was added to the residue, a white insoluble matter was collected by filtration, and 6-amino-N-(4-benzyloxy-benzyl)-nicotinamide (202 mg, 0.606 mmol, 64%) was obtained.

reactant | 6-aminonicotinic acid | 0.941 mmol, 130 mg | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 4-benzyloxy-benzylamine | 0.941 mmol, 201 mg | C(C1=CC=CC=C1)OC1=CC=C(CN)C=C1 | C14H15NO
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 1.41 mmol, 624 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.82 mmol, 394 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-amino-N-(4-benzyloxy-benzyl)-nicotinamide | 0.606 mmol, 202 mg, 64% | NC1=NC=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C20H19N3O2
